US07723375B2
To a solution of wortmannin (10.7 mg, 25.0 μmol) in CH2Cl2 (125 μL) was added a freshly prepared 0.2 M stock solution of diallylamine (138 μL, 27.5 μmol) in CH2Cl2. The reaction mixture was stirred at room temperature for 1 h. The solvent and excess amine were removed in vacuo, and the product was purified via chromatography on SiO2 (hexanes/ethyl acetate, 1:9) to give PX-866 (9.0 mg, 17 μmol, 68%) as an orange oil. The product was analyzed by several experimental methods and shown to be of the correct structure and of high purity as: [α]D −630 (c 0.0015, CH2Cl2, 23° C.); IR (KBr) 3391, 1743, 1695, 1685, 1622, 1569, 1222, 1111, 1100 cm−1; 1H NMR δ 8.20 (s, 1H), 6.81 (s, 1H), 6.06 (dd, 1H, J=7.4, 4.8 Hz), 5.85 (br s, 1H), 5.62 (br, 1H), 5.44-5.04 (m, 4H), 4.48 (dd, 1H, J=7.2, 1.9 Hz), 4.05-3.60 (m, 4H), 3.26 (s, 3H), 3.27-3.20 (m, 1H), 3.16 (dd, 1H, J=10.9, 7.2 Hz), 3.00-2.90 (m, 2H), 2.59 (dd, 1H, J=19.4, 8.6 Hz), 2.40 (dd, 1H, J=14.4, 7.7 Hz), 2.35-2.07 (m, 2H), 2.07 (s, 3H), 1.83 (dd, 1H, J=14.4, 4.7 Hz), 1.54 (s, 3H), 0.86 (s, 3H); 13C NMR δ 217.0, 178.5, 169.6, 164.8, 156.3, 151.5, 139.0, 136.9, 132.2, 131.3, 127.7 (2 C), 119.2, 89.0, 81.9, 73.1, 67.6, 59.1, 50.9 (2 C), 48.9, 42.3, 42.2, 37.5, 36.0, 24.6, 22.2, 20.8, 16.1; MS (EI) m/z (rel. intensity) 525 (M′, 11), 466 (17), 391 (15), 350 (14), 323 (13), 266 (17), 239 (17), 60 (100); HRMS (EI) calculated for C29H35NO8 525.2363; found 525.2386.

reactant | wortmannin | 25.0 μmol, 10.7 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CCC2=O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H24O8
reactant | diallylamine | 27.5 μmol, 138 μL | C(C=C)NCC=C | C6H11N
solvent | CH2Cl2 | 125 μL | C(Cl)Cl | CH2Cl2
product | PX-866 | 17 μmol, 9.0 mg, 68% | CC(=O)O[C@@H]1C[C@]2([C@@H](CCC2=O)C3=C1[C@]4([C@H](OC(=O)/C(=C/N(CC=C)CC=C)/C4=C(C3=O)O)COC)C)C | C29H35NO8
